US08202856B2
N-(3-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)-2-methoxyethanamine
The title compound was prepared following the procedure described for Example 94, starting from 3-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (100 mg; 0.24 mmol) and 2-methoxyethanamine (36.4 mg; 0.48 mmol) to give Example 147 as a yellow solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.75 (2H, dd, J=4.62, 1.58 Hz), 8.05 (1H, s), 7.95-7.85 (2H, m), 7.76-7.69 (1H, m), 7.64-7.49 (6H, m), 3.90 (2H, s), 3.47 (2H, t, J=5.6 Hz), 3.29 (3H, s), 2.76 (2H, t, J=5.6 Hz). LC/MS (Method C): 472 (M+H)+. HPLC (Method E) Rt 2.18 min (Purity: 94.9%).

reactant | 3-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 0.24 mmol, 100 mg | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C=1C=C(C=O)C=CC1 | C22H13FN6O2
reactant | 2-methoxyethanamine | 0.48 mmol, 36.4 mg | COCCN | C3H9NO
product | N-(3-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)-2-methoxyethanamine | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C=1C=C(CNCCOC)C=CC1 | C25H22FN7O2
